US08466167B2
A solution of tert-butyl 5-nitro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate (from the previous step) (1.0 eq.) and 3-bromopicolinonitrile (1.0 eq.) in toluene (0.44 M) was mixed with tetrakis(triphenyl-phosphine)palladium (5 mol %) and 2N aqueous potassium carbonate solution (2.0 eq.). The reaction was heated to 100° C. and stirred overnight. After cooling to ambient temperature, the reaction mixture was filtered to collect the precipitate. The precipitate was rinsed with EtOAc to give 8-nitrobenzo[f][1,7]naphthyridin-5-amine as a yellow solid.

reactant | tert-butyl 5-nitro-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | [N+](=O)([O-])C=1C=CC(=C(C1)NC(OC(C)(C)C)=O)B1OC(C(O1)(C)C)(C)C | C17H25BN2O6
reactant | 3-bromopicolinonitrile | 1.0 eq. | BrC=1C(=NC=CC1)C#N | C6H3BrN2
reactant | potassium carbonate | 2N, 2.0 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 0.44 M | C1(=CC=CC=C1)C | C7H8
product | 8-nitrobenzo[f][1,7]naphthyridin-5-amine | [N+](=O)([O-])C1=CC=2C(=C3C=CC=NC3=C(N2)N)C=C1 | C12H8N4O2
